US06465472B1
1-Methyl-6,7-methylenedioxy-4-phenylquinazolin-2(1H)-one
To a solution of 1-methyl-6,7-methylenedioxy-4-phenyl-3,4-dihydroquinazolin-2(1H)-one (47 mg) in dioxane (3 mL) was added an aqueous solution of KMnO4 (33 mg in 3 mL of water) at 10° C. After the addition, the mixture as extracted with EtOAc (3×10 mL). The organic phase was concentrated in vacuo. To the residue, water (70 mL) was added. The resulting solid was collected by filtration, washed with water, dried in vacuo to provide the title compound as a yellow solid (20 mg, 42%), mp: 253-255° C. 1H NMR (CDCl3): 7.69-7.66 (m, 2H), 7.53-7.51 (m, 3H), 7.18 (s, 1H), 6.86 (s, 1H), 6.11 (s, 2H), 3.76 (s, 3H). Anal. calcd. for C16H12N2O3: C, 68.27; H, 4.32; N, 9.99. Found: C, 67.99; H, 4.17; N, 9.73.

reactant | 1-methyl-6,7-methylenedioxy-4-phenyl-3,4-dihydroquinazolin-2(1H)-one | 47 mg | CN1C(NC(C2=CC3=C(C=C12)OCO3)C3=CC=CC=C3)=O | C16H14N2O3
reactant | KMnO4 | 3 mL, 33 mg | [O-][Mn](=O)(=O)=O.[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 1-Methyl-6,7-methylenedioxy-4-phenylquinazolin-2(1H)-one | 20 mg, 42% | CN1C(N=C(C2=CC3=C(C=C12)OCO3)C3=CC=CC=C3)=O | C16H12N2O3
